Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
exertional chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient seen and examined while in ED on ___ @ 0930.  
 ___ yo M with history of scoliosis, low-normal EF due to cardiac 
dyssynchrony from ___, chronic chest pain and dyspnea, who 
presents as transfer from OSH for evaluation of chest pain.  
 Patient seen by cardiology here, Dr. ___, on ___ for 
workup of chronic CP and dyspnea, ongoing for ___ years. Had 
echocardiogram showing EF 50% likely due to dyssynchrony from 
___. Was recommended to have CMR for further evaluation, but 
missed outpatient appointment due to transportation issues.  
on ___ patient reports walking home from work at 2 AM when 
he had the onset of his sharp chest pain. Typically occurs while 
he is at work lifting heavy boxes, but says it was new for him 
to have these symptoms with walking. Slowed down his pace and CP 
resolved after 10 minutes. Symptoms similar to prior, but more 
intense. Associated with SOB. No diaphoresis, n/v, or 
palpitations. No recent illness. No CHF symptoms.  
 Went to OSH ED for evaluation. EKG showed LBBB with 
non-specific ST/T wave changes. Trop negative (@ 430 and 530 
AM). He was given ASA 324 mg. Patient/family requested transfer 
to ___ for further workup.  

 
Past Medical History:
Gastritis
Chronic back pain/radiculopathy
Scoliosis
 
Social History:
___
Family History:
His mother has congestive heart failure, status post pacemaker. 
Negative for premature CAD, sudden or unexpected death. His 
brother has "bone disease", brother with cerebral palsy, sister 
(diagnosis unknown). 

 
Physical Exam:
VS: ___ 127/78 98%
General; appears comfortable in NAD.
Neck: supple (-) carotid bruits
Chest: lungs clear
CV; AP RRR no m/r/g.
Abd: soft, NT,ND (+) BS
Ext: (+) peripheral pulses without edema. 

Labs: ___ Hct 42.9 Bun/creat ___ Trop (-) x2.
EKG: SB LBBB

 
Pertinent Results:
___ 05:30AM BLOOD WBC-9.8 RBC-4.60 Hgb-14.4 Hct-42.9 MCV-93 
MCH-31.3 MCHC-33.6 RDW-12.4 RDWSD-42.4 Plt ___
___ 08:20AM BLOOD WBC-10.6* RBC-4.64 Hgb-14.5 Hct-42.9 
MCV-93 MCH-31.3 MCHC-33.8 RDW-12.3 RDWSD-41.8 Plt ___
___ 05:30AM BLOOD CK(CPK)-159 Amylase-70
___ 05:30AM BLOOD CK-MB-5 cTropnT-<0.01
___ 08:20AM BLOOD cTropnT-<0.01
 
Brief Hospital Course:
Mr. ___ was transferred to ___ for further evaluation of 
chest pain and abnormal EKG's. At outside hospital EKG showed 
sinus rhythm with a heart rate of 50 with anterior Q waves and 
T-wave inversion and left bundle branch block. There is no 
change compared to prior EKG.  Troponin was negative (@ 430 and 
530 AM). He was given ASA 324 mg. Patient/family requested 
transfer to ___ for further workup.  

 Currently, patient is chest pain free and feels at baseline. Of 
note, he states that he was told by his spine doctor that his 
cardiac issues are due to his scoliosis. Per notes, "scoliosis 
and likely radiculopathy from the spine into his sternum." On 
gabapentin.  

 VS - HR 47-60, BP 115/84, 100% on RA.  
 Cardiopulmonary exam unremarkable. No signs 
congestion/malperfusion.  
 EKG with NSR, HR 50, 1st degree AV delay, LBBB with 
repolarization changes. Compared to EKG from ___, TWI in aVF 
is new and ST-segment V4-V6 slightly different morphology. 
 
 Pertinent OSH labs: Trop <0.01 x2 (0430 and 0530), CKMB 11.6 
with total CK 419 (index 2.8), Cr 1.2.  

 A/P: Atypical chest pain. Initial troponin at OSH (done ___ 
hours after onset of pain) was negative. EKG non-specific, 
likely LBBB-related repolarization changes. Currently chest pain 
free. Low suspicion for an acute coronary syndrome. Has received 
ASA and statin.
  
 Discussed possible options with patient and his family, 
including outpatient workup with cardiac MRI as previously 
recommended. However he and his mother were extremely reluctant 
to be discharged home. 

Pt. remained stable overnight. He was chest pain free. Troponins 
were negative and EKG without changes. Pt. was discharged to 
home. He will have cardiac MRI in the near future and follow-up 
with Dr. ___ on ___.
 
  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO BID 
2. Ranitidine 150 mg PO DAILY 

 
Discharge Medications:
1.  Gabapentin 300 mg PO BID  
2.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastritis
Chronic back pain/radiculopathy
Scoliosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

___ y/o man with a history of scoliosis and chronic back pain 
presented to hospital with chest pain. EKG was without changes. 
He has known LBBB. Troponin lab was negative twice.  Atypical 
chest pain unlikely to be cardiac in nature. 

PE:
VS: ___ 127/78  98%
General; appears comfortable in NAD.
Neck: supple (-) carotid bruits
Chest: lungs clear
CV; AP RRR no m/r/g.
Abd: soft, NT,ND (+) BS
Ext: (+) peripheral pulses without edema. 

Labs: ___  Hct 42.9  Bun/creat  ___  Trop (-) x2.
EKG: SB LBBB

#Atypical chest pain
 -Non-cardiac in nature.
 -Cardiac MRI outpt as previously ordered.
 -F/u Dr. ___ in 2 weeks as scheduled. 

#Chronic back pain
 -Continue gabapentin.
 -F/u ___
 -F/u chronic pain center.

#Disp:
 -Full code
 -D/c home.

 
Discharge Instructions:
Your were admitted to the hospital for telemonitoring and 
further evaluation of exertional chest pain. This chest pain is 
unlikely to be cardiac in origin. Please follow-up with Dr. 
___ have the previously ordered cardiac MRI before 
your appointment.

Please follow-up with the ___ and Chronic Pain Clinic 
as scheduled for chronic back pain.
 
Followup Instructions:
___